US07968554B2
5-Amino-3-methyl-1H-pyrazole-4-carbonitrile (15.0 g, above) was added to stirred concentrated sulfuric acid (47 mL, 95%) cooled with cold water bath. After the addition, the reaction mixture was stirred at room temperature for 2 hours before it was poured with stirring into a mixture of ice and water. The precipitate was collected by filtration, washed with cold water to remove excess sulfuric acid, and dried in a vacuum desiccator to give 5-amino-3-methyl-1H-pyrazole-4-carboxylic acid amide. (Yield 19.6 g).

reactant | 5-Amino-3-methyl-1H-pyrazole-4-carbonitrile | 15.0 g | NC1=C(C(=NN1)C)C#N | C5H6N4
reactant | sulfuric acid | 47 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 5-amino-3-methyl-1H-pyrazole-4-carboxylic acid amide | NC1=C(C(=NN1)C)C(=O)N | C5H8N4O
